US07776869B2
Step 1: (S)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine
To a light yellow solution of (S)-tert-butyl 3-aminopiperidine-1-carboxylate (0.52 g, 2.6 mmol) in 25 ml MeOH was added sodium cyanoborohydride (0.33 g, 5.2 mmol), AcOH (0.74 ml, 13 mmol), and formaldehyde (37 wt. % solution in water, 1.0 ml). After stirring approximately 12 h, the reaction was quenched by the addition of 5 ml saturated aqueous sodium bicarbonate. The volatile organic solvents were removed in vacuo, and water and EtOAc was added. The organic layer was removed, and the aqueous layer was extracted twice with EtOAc. The combined organic layers were dried with Na2SO4, filtered, and concentrated to give a yellow oil. The resulting material was treated with 4 ml 4N HCl in dioxane at 0° C. After 2 h, the solution was concentrated in vacuo to give a light yellow solid. This solid was treated with 1-Fluoro-2-nitro-4-trifluoromethylbenzene (0.37 ml, 2.6 mmol), sodium bicarbonate (1.0 g, 13 mmol), and 5 ml dry THF. The mixture was heated to 75° C. with a water-cooled reflux condenser for 12 h. The mixture was allowed to cool to ambient temperature, was filtered through a fritted funnel, and concentrated to give the desired product as an orange oil. MS (m/z): 318.0 (M+H)+. Calc'd for C14H18F3N3O2: 317.31.

reactant | (S)-tert-butyl 3-aminopiperidine-1-carboxylate | 2.6 mmol, 0.52 g | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium cyanoborohydride | 5.2 mmol, 0.33 g | C(#N)[BH3-].[Na+]
reactant | AcOH | 13 mmol, 0.74 ml | CC(=O)O | C2H4O2
reactant | formaldehyde | 1.0 ml | C=O | CH2O
reactant | HCl | 4N, 4 ml | Cl | ClH
reactant | 1-Fluoro-2-nitro-4-trifluoromethylbenzene | 2.6 mmol, 0.37 ml | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | sodium bicarbonate | 13 mmol, 1.0 g | C([O-])(O)=O.[Na+]
solvent | MeOH | 25 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine | CN([C@@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C | C14H18F3N3O2
